US09260416B2
Step 1: 5-(1-Benzyl-6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid
5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester and benzyl bromide (0.0267 mL, 0.225 mmol) were dissolved in DMF:THF (1:1, 4 mL). The mixture was cooled to 0° C., sodium hydride (60% in mineral oil, 0.015 g, 0.375 mmol) was added, and the ice bath was removed. After warming to room temperature, the reaction was heated to 50° C. for 1 hour. Analytical LCMS indicated complete conversion and, furthermore, complete hydrolysis of the methyl ester. The reaction was neutralized with HCl (aq.), diluted with EtOAc/hexanes and washed with H2O/brine. The organic portion was dried and concentrated and the residue was purified via preparatory HPLC (10-100% ACN in H2O, 20 minute run, r.t.=13.1 minutes) to give the title compound. Mass spectrometric data: [M+H]+=409.

reactant | 5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
reactant | benzyl bromide | 0.225 mmol, 0.0267 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 0.375 mmol, 0.015 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF THF | 4 mL | CN(C)C=O.C1CCOC1
product | 5-(1-Benzyl-6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)Cl)SC=1C=NC=C(C(=O)O)C1)C | C22H17ClN2O2S
